US06162808
i) 5-Bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine
To a solution of potassium tert-butoxide (67.5 g) in tetrahydrofuran (500 ml) was added 5-bromo-2,4-dichloropyrimidine (55 g) (J. Am. Chem. Soc. 1934, 56, 134) in tetrahydrofuran (100 ml) dropwise. After 1.5 hours, water (100 ml) was added carefully and the mixture extracted with ethyl acetate. The combined organic solution was washed with water, dried (MgSO4) and evaporated under reduced pressure. Purification was by chromatography eluting with 5% triethylamine in isohexane to give the product as a solid. Yield 52.4 g

reactant | potassium tert-butoxide | 67.5 g | CC(C)([O-])C.[K+]
reactant | 5-bromo-2,4-dichloropyrimidine | 55 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine | BrC=1C(=NC(=NC1)OC(C)(C)C)OC(C)(C)C | C12H19BrN2O2
